US07608622B2
To a solution of 5-bromo-N3-(3-nitrobenzyl)pyrazine-2,3-diamine (100 mg, 0.31 mmol) in anhydrous tetrahydrofuran (10 mL) was added diimidazol-1-ylmethanone (250 mg, 1.51 mmol) at room temperature. After stirring overnight, the reaction was concentrated under reduced pressure. Purification of the resultant residue by flash chromatography [silica gel; hexanes/ethyl acetate (2:1)] afforded 6-bromo-1-(3- nitrobenzyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one as a red-brown solid (95 mg, 88%).

reactant | 5-bromo-N3-(3-nitrobenzyl)pyrazine-2,3-diamine | 0.31 mmol, 100 mg | BrC=1N=C(C(=NC1)N)NCC1=CC(=CC=C1)[N+](=O)[O-] | C11H10BrN5O2
reactant | diimidazol-1-ylmethanone | 1.51 mmol, 250 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-bromo-1-(3- nitrobenzyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one | 95 mg, 88% | BrC1=CN=C2C(=N1)N(C(N2)=O)CC2=CC(=CC=C2)[N+](=O)[O-] | C12H8BrN5O3
